US05332739
1.3 g of 1-(3-phenyloxypropyl)piperazine and 0.5 g of 6-chloro-1-methyl-2,4(1H,3H)-pyrimidinedione were dissolved in 15 ml of isopropanol, and 2.7 ml of triethylamine was then added. Next, the solution was heated under reflux with stirring for 12 hours and then allowed to stand for cooling, and the solvent was distilled off. The resultant residue was dissolved in 100 ml of chloroform. The chloroform layer was washed with water, dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain an oily product. This oily product was purified through a silica gel column chromatograph (chloroform/methanol=30/1 in volume ratio), thereby obtaining 0.73 g of 1-methyl-6-[4-(3-phenoxypropyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | 1-(3-phenyloxypropyl)piperazine | 1.3 g | C1(=CC=CC=C1)OCCCN1CCNCC1 | C13H20N2O
reactant | 6-chloro-1-methyl-2,4(1H,3H)-pyrimidinedione | 0.5 g | ClC1=CC(NC(N1C)=O)=O | C5H5ClN2O2
reactant | triethylamine | 2.7 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 1-methyl-6-[4-(3-phenoxypropyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | 0.73 g | CN1C(NC(C=C1N1CCN(CC1)CCCOC1=CC=CC=C1)=O)=O | C18H24N4O3
